US05449664
3'-Deoxy-3'-fluorothymidine (2.04 g, 8.34 mM) and o-nitrophenylselenocyanate (2.10 g, 9.20 mM) were placed in a flask under nitrogen. Tetrahydrofuran (dry) (50 mL) was added followed by 2.2 mL (8.83 mM) of tri-n-butylphosphine. The mixture was stirred at room temperature for 1.5 hours, diluted with 200 mL of ethyl acetate and washed with 200 mL of sat. sodium bicarbonate followed by 200 mL of brine. The extract was dried over magnesium sulfate and concentrated under reduced pressure to a yellow oil (6.3 g). Chromatographic purification of the yellow oil on silica gel with hexane:ethyl acetate (4:1 v/v) as eluent gave 2.79 g (6.51 mM; 78%) of 3',5'-di-deoxy-3'-fluoro-5'-[(2-nitrophenyl)selenyl]thymidine as an amorphous yellow solid.

reactant | 3'-Deoxy-3'-fluorothymidine | 8.34 mM, 2.04 g | F[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1 | C10H13FN2O4
reactant | o-nitrophenylselenocyanate | 9.20 mM, 2.10 g | [N+](=O)([O-])C1=C(C=CC=C1)[Se]C#N | C7H4N2O2Se
reactant | Tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | tri-n-butylphosphine | 8.83 mM, 2.2 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3',5'-di-deoxy-3'-fluoro-5'-[(2-nitrophenyl)selenyl]thymidine | 6.51 mM, 2.79 g, 78% | F[C@H]1C[C@@H](O[C@@H]1C[Se]C1=C(C=CC=C1)[N+](=O)[O-])N1C(=O)NC(=O)C(C)=C1 | C16H16FN3O5Se
